US05760058
1.10 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-(5-nitrothiophen-2-yl)carbonylpiperidine hydrochloride was converted into a free form and dissolved in 25 ml of ethyl acetate. Thereto were added 0.70 ml of propionic anhydride and 0.10 g of 10% palladium carbon. The mixture was stirred at a hydrogen pressure of 1 atm. at room temperature for 2 hours. 0.10 g of 10% palladium carbon was added, and the mixture was stirred overnight at room temperature. 0.10 g of 10% palladium carbon was added, and the mixture was stirred at room temperature for 8 hours. The catalyst was collected by filtration and washed with ethyl acetate. The filtrate and the washings were combined. The mixture was washed with a diluted aqueous sodium hydroxide solution and a saturated aqueous sodium chloride solution in this order, dried with sodium sulfate, treated with active carbon, and concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (eluant: methylene chloride/methanol=30/1 to 20/1) and then by a thin-layer chromatography (developer: methylene chloride/methanol=9/1). The product was converted into a hydrochloride. The hydrochloride was dried under reduced pressure to obtain 0.11 g of 4-[N-methyl-N-(2-phenylethyl)amino]-1-(5-propionylaminothiophen-2-yl)carbonylpiperidine hydrochloride as a light brown amorphous.

reactant | 4-[N-methyl-N-(2-phenylethyl)amino]-1-(5-nitrothiophen-2-yl)carbonylpiperidine hydrochloride | 1.10 g | Cl.CN(CCC1=CC=CC=C1)C1CCN(CC1)C(=O)C=1SC(=CC1)[N+](=O)[O-]
reactant | propionic anhydride | 0.70 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium carbon | 0.10 g | [C].[Pd]
catalyst | palladium carbon | 0.10 g | [C].[Pd]
catalyst | palladium carbon | 0.10 g | [C].[Pd]
product | 4-[N-methyl-N-(2-phenylethyl)amino]-1-(5-propionylaminothiophen-2-yl)carbonylpiperidine hydrochloride | 0.11 g | Cl.CN(CCC1=CC=CC=C1)C1CCN(CC1)C(=O)C=1SC(=CC1)NC(CC)=O | InChI=1S/C22H29N3O2S.ClH/c1-3-20(26)23-21-10-9-19(28-21)22(27)25-15-12-18(13-16-25)24(2)14-11-17-7-5-4-6-8-17;/h4-10,18H,3,11-16H2,1-2H3,(H,23,26);1H
